US08071593B2
Synthesis of 3-(4-methylpiperazin-1-yl)propyl (3-hydroxymethylphenyl)carbamate
10 g (100 mmol) of N-methylpiperazine are added to a solution of 2.4 g (10 mmol) of 3-chloropropyl (3-hydroxymethylphenyl)carbamate in 10 ml of acetonitrile. The solution is refluxed for 4 h. The mixture is then hydrolysed by addition of water and cooled to about 65° C., and ethyl acetate is added. The mixture is then cooled to room temperature, during which the product is obtained as a solid between the organic and aqueous phases. The product is filtered off and rinsed with water, acetonitrile and ethyl acetate. The product is subsequently dried at 50° C. for several hours; ESI: 308 (M+H).

reactant | N-methylpiperazine | 100 mmol, 10 g | CN1CCNCC1 | C5H12N2
reactant | 3-chloropropyl (3-hydroxymethylphenyl)carbamate | 10 mmol, 2.4 g | OCC=1C=C(C=CC1)NC(OCCCCl)=O | C11H14ClNO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(4-methylpiperazin-1-yl)propyl (3-hydroxymethylphenyl)carbamate | OCC=1C=C(C=CC1)NC(OCCCN1CCN(CC1)C)=O | C16H25N3O3
